US04831055
4-[2-(4-Isopropylbenzamido)ethoxy]benzoic acid
Methyl 4-[2-(4-isopropylbenzamido)ethoxy]benzoate (102.42 g) was dissolved in 1 liter of ethanol with heating. A solution of 14.4 g of sodium hydroxide in 200 ml of water was added to the above ethanolic solution and the mixture was heated to reflux for 2 hours. The reaction solution was concentrated in vacuo, 1 liter of ice water was added to the residue, the mixture was neutralized with 10% hydrochloric acid, crystals separated out therefrom were collected by filtration, washed with water, dried and recrystallized from ethanol to give 80.5 g (yield: 82%) of crystalline product. M.p. 202°-203° C.

reactant | Methyl 4-[2-(4-isopropylbenzamido)ethoxy]benzoate | 102.42 g | C(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C20H23NO4
reactant | sodium hydroxide | 14.4 g | [OH-].[Na+]
solvent | ethanol | 1 liter | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 4-[2-(4-Isopropylbenzamido)ethoxy]benzoic acid | 80.5 g, yield: 82% | C(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)O)C=C2)C=C1 | C19H21NO4
